US07332508B2
1-(1-Ethylpropyl)-4-{[5-(2-fluoro-4-trifluoromethylphenyl)[1,2,4]oxadiazol-3-yl]methyl}piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 12, starting from 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine and 2-fluoro-4-trifluoromethylbenzoyl chloride.

reactant | 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine | C(C)C(CC)N1CCC(CC1)CC(=N)NO | C12H25N3O
reactant | 2-fluoro-4-trifluoromethylbenzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF4O
product | 1-(1-Ethylpropyl)-4-{[5-(2-fluoro-4-trifluoromethylphenyl)[1,2,4]oxadiazol-3-yl]methyl}piperidine, Hydrochloride | Cl.C(C)C(CC)N1CCC(CC1)CC1=NOC(=N1)C1=C(C=C(C=C1)C(F)(F)F)F | InChI=1S/C20H25F4N3O.ClH/c1-3-15(4-2)27-9-7-13(8-10-27)11-18-25-19(28-26-18)16-6-5-14(12-17(16)21)20(22,23)24;/h5-6,12-13,15H,3-4,7-11H2,1-2H3;1H
